US07781428B2
A mixture of methyl 2-(3-(benzyloxy)-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate, Example 30, (100 mg, 0.20 mmol), tetrahydrofuran (3 mL), and methanol (1 mL) was treated with 2.5 N sodium hydroxide (1 mL) at room temperature. After 18 hours the mixture was concentrated to one-third of its original volume, diluted with water (3 mL) and treated with 2 N hydrogen chloride (2 mL). The mixture was extracted three times with ethyl acetate, dried over magnesium sulfate, filtered and concentrated to give 2-(3-(benzyloxy)-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid (yellow/orange solid, 90 mg, 0.18 mmol, 93% yield). The title compound was largely present as (±)-(3RS,3aSR)-2-(3-(benzyloxy)-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.03-1.51 (m, 7H), 1.57-1.69 (m, 1H), 1.74-1.89 (m, 1H), 1.95-2.07 (m, 1H), 2.18-2.29 (m, 1H), 2.82-2.96 (m, 1H), 3.03-3.14 (m, 1H), 3.57 (ddd, J=13.70, 9.40, 4.30 Hz, 1H), 4.91 (dd, J=9.53, 5.50 Hz, 1H), 5.31 (q, J=12.35 Hz, 2H), 6.84 (d, J=8.86 Hz, 1H), 6.96 (s, 1H), 7.35 (t, J=7.25 Hz, 1H), 7.40-7.53 (m, 5H), 7.81-7.88 (m, 2H), 8.09 (d, J=8.06 Hz, 1H), 13.03 (s, 1H). ES-MS m/z 492 (M+H).

reactant | methyl 2-(3-(benzyloxy)-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OC | C32H31N3O3
reactant | tetrahydrofuran | 0.20 mmol, 3 mL, 100 mg | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 2.5 N, 1 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 2-(3-(benzyloxy)-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | 0.18 mmol, 90 mg, 93% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C31H29N3O3
